US07282501B2
Step A: 2-{2-Bromomethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid ethyl ester
A 100 mL round bottomed flask was charged with 2-{2-hydroxymethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid ethyl ester (1.0 g, 2.25 mmol), dissolved in anhydrous THF (75 mL), and then of triphenylphosphine (1.18 g, 4.50 mmol) and CBr4 (1.49 g, 4.50 mmol). The mixture was stirred at ambient temperature under a nitrogen atmosphere for 1 h and was poured into EtOAc (135 mL). The organic layer was washed with brine (50 mL), dried (Na2SO4), and concentrated. The crude product was purified using radial chromatography (EtOAc:hexanes 15:85) to give a the title compound as a colorless oil (0.95 g, 76%).

reactant | 2-{2-hydroxymethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid ethyl ester | 2.25 mmol, 1.0 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CO)=O | C25H29NO6
reactant | triphenylphosphine | 4.50 mmol, 1.18 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CBr4 | 4.50 mmol, 1.49 g | C(Br)(Br)(Br)Br | CBr4
reactant | EtOAc | 135 mL | CCOC(=O)C | C4H8O2
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 2-{2-Bromomethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid ethyl ester | 0.95 g, 76% | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CBr)=O | C25H28BrNO5
